US07727417B2
The synthesis of (S7-3) was carried out following the method described in Synthesis, No. 9, 1439 (2004). At first, 38.3 g of 1-chloro-6-bromo-2-naphthol (S1-2), 5.2 g of PdCl2(PPh3)2, 0.71 g of copper iodide and 400 ml of triethylamine were added to a reactor in nitrogen atmosphere, stirred at room temperature, added with 35.8 g of 1-heptyne (S7-2) and then refluxed for 6 hours. The reaction solution was cooled to room temperature and distilled under a reduced pressure to remove the solvent, and then the residue was added with ethyl acetate and filtered by celite. The resulting solution was washed with 1N HCl(aq) and water, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under a reduced pressure. The residue was purified by silica gel column chromatography using heptane/ethyl acetate=3/1 as an eluting solvent and dried under a reduced pressure to obtain 32.3 g of 1-chloro-6-(1-pentynyl)-2-naphthol (S7-3).

reactant | 1-chloro-6-bromo-2-naphthol | 38.3 g | ClC1=C(C=CC2=CC(=CC=C12)Br)O | C10H6BrClO
reactant | 1-heptyne | 35.8 g | C#CCCCCC | C7H12
catalyst | PdCl2(PPh3)2 | 5.2 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 0.71 g | [Cu](I)I
solvent | triethylamine | 400 ml | C(C)N(CC)CC | C6H15N
product | 1-chloro-6-(1-pentynyl)-2-naphthol | 32.3 g | ClC1=C(C=CC2=CC(=CC=C12)C#CCCC)O | C15H13ClO
